US04421768
1,1-DIFLUORO-2,5-DIAMINO-6-HEPTYNE-DIHYDROCHLORIDE
A saturated solution of dry hydrogen chloride in dry ether (10 ml) is added to 1,1-difluoro-2,5-di-(N-tert.butoxycarbonylamino)-6-heptyne obtained as in Step E above (1 mmole) and left overnight at room temperature. The dichlorohydrate which forms as crystals is filtered, washed with ether, and dried to give the title compound (0.23 g).

reactant | hydrogen chloride | Cl | ClH
reactant | 1,1-difluoro-2,5-di-(N-tert.butoxycarbonylamino)-6-heptyne | FC(C(CCC(C#C)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)F | C17H28F2N2O4
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1,1-DIFLUORO-2,5-DIAMINO-6-HEPTYNE-DIHYDROCHLORIDE | 0.23 g | Cl.Cl.FC(C(CCC(C#C)N)N)F | InChI=1S/C7H12F2N2.2ClH/c1-2-5(10)3-4-6(11)7(8)9;;/h1,5-7H,3-4,10-11H2;2*1H
